US06492383B1
A mixture of 2-[7-(2-methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridin-2-yl]-pyrrole-1-carboxylic acid tert-butyl ester (131 mg, 0.29 mmol) and trifluoroacetic acid (0.1 mL) in dichloromethane (1 mL) was stirred overnight. The solution was diluted with dichloromethane and water, and the pH was adjusted to 8.0 with a saturated aqueous sodium carbonate solution. The organic layer was dried over Na2SO4 and concentrated to afford (2-methyl-1H-indol-5-yl)-[2-(1H-pyrrol-2-yl)-thieno[3,2-b]pyridin-7-yl]-amine (62 mg, 56%). 1H NMR (400 MHz, CD3OD) δ7.93 (d, 1H), 7.25 (m, 3H), 6.93 (dd, 1H), 6.83 (s, 1H, 6.44 (dd, 1H), 6.13 (dd, 1H), 6.07 (s, 1H), 2.37 (s, 3H); RP18-HPLC RT: 5.45 minutes; API MS: 345 (M+1).

reactant | 2-[7-(2-methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridin-2-yl]-pyrrole-1-carboxylic acid tert-butyl ester | 0.29 mmol, 131 mg | C(C)(C)(C)OC(=O)N1C(=CC=C1)C1=CC2=NC=CC(=C2S1)NC=1C=C2C=C(NC2=CC1)C | C25H24N4O2S
reactant | trifluoroacetic acid | 0.1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (2-methyl-1H-indol-5-yl)-[2-(1H-pyrrol-2-yl)-thieno[3,2-b]pyridin-7-yl]-amine | 62 mg, 56% | CC=1NC2=CC=C(C=C2C1)NC1=C2C(=NC=C1)C=C(S2)C=2NC=CC2 | C20H16N4S
